US07087579B2
To a suspension of sodium hydride (60%, 0.27 g) in tetrahydrofuran (40 mL) was added cyclopropyltriphenylphosphonium bromide (2.6 g), and the mixture was stirred at 70° C. for 2 hours. To the reaction mixture was added methyl terephthalaldehydate (1.0 g), and the mixture was stirred at 70° C. for 7 days. Water was added to the reaction mixture, and the mixture was extracted with diethyl ether. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/dichloromethane=1/1) to give methyl 4-(cyclopropylidenemethyl)benzoate (0.80 g).

reactant | sodium hydride | 0.27 g | [H-].[Na+]
reactant | cyclopropyltriphenylphosphonium bromide | 2.6 g | [Br-].C1(CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methyl terephthalaldehydate | 1.0 g | COC(=O)C1=CC=C(C=C1)C=O | C9H8O3
reactant | Water | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | methyl 4-(cyclopropylidenemethyl)benzoate | 0.80 g | C1(CC1)=CC1=CC=C(C(=O)OC)C=C1 | C12H12O2
